US05026707
The dimethoxynaphthalene compound (66.5 mmol) was dissolved in 120 ml of ethanol. The resulting mixture was heated to reflux under nitrogen, and 11.7 g (0.51 mol) of sodium were added in portions. Stirring at reflux under nitrogen was continued until all of the solid had dissolved. The mixture then was stirred for 15 minutes at room temperature then cautiously diluted with 50 ml of water. The mixture was evaporated in vacuo to remove ethanol, and the remainder was diluted with water and extracted with ether. The organic extracts were combined, dried over sodium sulfate, and evaporated in vacuo to give 11.1 g of 5,8-dimethoxy-1,4-dihydronaphthalene as a yellow oil.

reactant | dimethoxynaphthalene | 66.5 mmol | COC1=C(C2=CC=CC=C2C=C1)OC | C12H12O2
reactant | sodium | 0.51 mol, 11.7 g | [Na] | Na
reactant | ethanol | 120 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 5,8-dimethoxy-1,4-dihydronaphthalene | 11.1 g | COC1=C2CC=CCC2=C(C=C1)OC | C12H14O2
